US08183245B2
To a stirred solution of n-cyclohexylethanolamine (0.48 g, 3.4 mmol) and 2,6-dichloropyrazine (0.50 g, 3.4 mmol) in toluene (17 mL) was added 3,4,7,8-tetramethyl-1,10-phenanthroline (7.9 mg, 0.034 mmol), copper iodide (0.032 g, 0.17 mmol) and cesium carbonate (2.2 g, 6.7 mmol). The reaction mixture was stirred at 100° C. After 18 h, the reaction mixture was cooled to room temperature, diluted with EtOAc (50 mL), filtered through celite and concentrated. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient) to afford N-{2-[(6-chloropyrazin-2-yl)oxy]ethyl}cyclohexanamine as an orange oil. LRMS (ESI) calculated for C12H18ClN3O [M+H]+, 256.1; found 256.1.

reactant | 2,6-dichloropyrazine | 3.4 mmol, 0.50 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3,4,7,8-tetramethyl-1,10-phenanthroline | 0.034 mmol, 7.9 mg | CC=1C=NC2=C3N=CC(=C(C3=CC=C2C1C)C)C | C16H16N2
reactant | cesium carbonate | 6.7 mmol, 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | copper iodide | 0.17 mmol, 0.032 g | [Cu](I)I
product | N-{2-[(6-chloropyrazin-2-yl)oxy]ethyl}cyclohexanamine | ClC1=CN=CC(=N1)OCCNC1CCCCC1 | C12H18ClN3O
